US04677115
Step B: Preparation of 5,6-Dihydro-5-bromo-4-hydroxy-4H-thieno[2,3-b]thiopyran-2-sulfonamide
A suspension of 5,6-dihydro-5-bromo-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide (2.58 g, 0.0079 m) in methanol (100 ml) was cooled to -10° C. and vigorously stirred while a solution of sodium borohydride (0.45 g, 0.012 m) in water (10 ml) was added over 25 minutes while maintaining the temperature at -10° to -5° C. The mixture was stirred at ambient temperature for 2 hours, then acidified with 6N hydrochloric acid and concentrated in vacuo below 40° C. The residue was distributed between ethyl acetate (100 ml) and water (100 ml), the aqueous layer was separated and again extracted with ethyl acetate (2×75 ml). The combined extracts were washed with water, dried over sodium sulfate and concentrated in vacuo to give 2.42 g (93%) of crude product. Partial purification was effected by chromatography on silica gel, eluting with 5% methanol-chloroform, to yield 1.71 g of product which was used in the subsequent step without further purification.

reactant | 5,6-dihydro-5-bromo-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide | 2.58 g | BrC1C(C2=C(SC1)SC(=C2)S(=O)(=O)N)=O | C7H6BrNO3S3
reactant | sodium borohydride | 0.45 g | [BH4-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 5,6-Dihydro-5-bromo-4-hydroxy-4H-thieno[2,3-b]thiopyran-2-sulfonamide | 1.71 g | BrC1C(C2=C(SC1)SC(=C2)S(=O)(=O)N)O | C7H8BrNO3S3
